US06465658B2
286.0 g of imidazole were introduced into 1400 g of chlorobenzene in a flask fitted with column and distillation bridge. 720 g of 30% strength methanolic sodium methoxide solution were added dropwise. First methanol was removed by distillation, followed by 300 ml of chlorobenzene. 202 g of phosgene were subsequently passed in at 80-85° C. over the course of one hour. When the addition was complete, the mixture was stirred at 90° C. for a further 1 hour while a vigorous stream of nitrogen was passed through the flask, and the precipitate then present was filtered off at 80° C. and rinsed with 200 g of chlorobenzene at 90° C. The filtrate and the washing liquid were combined and cooled to 0° C. The precipitate which deposited was filtered off, rinsed with 200 g of dry chlorobenzene at 20° C. and dried at 60° C. under reduced pressure (50 mbar). 278.3 g of carbonyidiimidazole were thus obtained in the form of colorless crystals and having a purity of 97.8%. This corresponded to a yield of 84.0% of theory.

reactant | imidazole | 286.0 g | N1C=NC=C1 | C3H4N2
reactant | sodium methoxide | C[O-].[Na+]
solvent | chlorobenzene | 1400 g | ClC1=CC=CC=C1 | C6H5Cl
product | carbonyidiimidazole | 278.3 g, yield of 84.0% | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
